US07064124B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-acetoxybenzoic acid (0.200 g, 0.495 mmol) was dissolved in a mixed solution of acetonitrile (9 ml) and water (3 ml) and after adding thereto CAN (0.678 g, 1.24 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was recrystallized from ether to obtain the titled compound (0.160 g, 0.425 mmol, 86%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-acetoxybenzoic acid | 0.495 mmol, 0.200 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OC(C)=O)C(=C(C1OC)OC)OC)C | C21H24O8
reactant | CAN | 1.24 mmol, 0.678 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.425 mmol, 0.160 g, 86% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
